US05221665
In a 2 liter erlenmeyer flask was placed 49.8 g (0.44 mole) of cycloheptylamine, 66.6 g (0.66 mole) of triethylamine and 1 liter of methylene chloride. The resulting solution was stirred, while 73.4 g (0.44 mole) of ethyl bromoacetate was added dropwise. The mixture was stirred for 16 hours at room temperature and then filtered. The filtrate was washed with water (3×200 mL), dried over magnesium sulfate, filtered and solvent was removed by rotary evaporation. The resulting oil was run through a short column with the eluent being first methylene chloride and then methylene chloride containing 0.25% ammonium hydroxide and 2.5% methanol. A small amount of a fast moving impurity was separated from the bulk of the product. Solvent was again removed from the product by rotary evaporation and the resulting oil was dissolved in ether, dried over magnesium sulfate and filtered. Hydrogen chloride saturated ether was then added to the filtrate and the resulting precipitate was filtered off and dried in vacuum to give 47.8 g (47%) of N-cycloheptylglycine ethyl ester hydrochloride.

reactant | cycloheptylamine | 0.44 mole, 49.8 g | C1(CCCCCC1)N | C7H15N
reactant | triethylamine | 0.66 mole, 66.6 g | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 0.44 mole, 73.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | N-cycloheptylglycine ethyl ester hydrochloride | 47.8 g, 47% | Cl.C(C)OC(CNC1CCCCCC1)=O | InChI=1S/C11H21NO2.ClH/c1-2-14-11(13)9-12-10-7-5-3-4-6-8-10;/h10,12H,2-9H2,1H3;1H
